US08809342B2
To a solution of 4′-(trifluoromethyl)biphenyl-4-carbaldehyde (7.0 g, 28 mmol) in tetrahydrofuran (280 mL) was added isobutylmagnesium bromide (21 mL, 2M in THF, 42 mmol) dropwise at −15° C. The reaction was stirred at −10° C. for 2 hours. The reaction was quenched with 1N HCl (10 mL) and extracted with ethyl acetate (3×20 mL). The combined organics were dried over sodium sulfate, filtered and concentrated. Purification by column chromatography gave 3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-ol (3.9 g, 45%) as a solid. 1H NMR (400 MHz, CDCl3, δ): 7.62 (s, 4H), 7.52-7.50 (m, 2H), 7.40-7.38 (m, 2H), 4.77-4.73 (m, 1H), 1.75-1.67 (m, 1H), 1.50-1.46 (m, 2H), 0.92-0.90 (m, 6H).

reactant | 4′-(trifluoromethyl)biphenyl-4-carbaldehyde | 28 mmol, 7.0 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C=O)(F)F | C14H9F3O
reactant | isobutylmagnesium bromide | 42 mmol, 2M, 21 mL | C(C(C)C)[Mg]Br
solvent | tetrahydrofuran | 280 mL | O1CCCC1 | C4H8O
product | 3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-ol | 3.9 g, 45% | CC(CC(O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C18H19F3O
